US07985763B2
The above-obtained compound (1.06 g, 3.62 mmol) was suspended together with 1-naphthol (521 mg, 3.62 mmol) and potassium iodide (60 mg, 0.36 mmol) in N-methylpyrrolidinone (10 mL). To the suspension, potassium carbonate (0.75 g, 5.42 mmol) was added. After stirred at 90° C. for 4 h, the reaction mixture was quenched with water (30 mL) followed by extraction with ethyl acetate (30 mL×3). The organic layers were combined, washed with brine, and concentrated under vacuum. The residue was purified by silica gel chromatography to give 5-[5-(naphthalen-1-yloxy)-pentyloxy]-quinoline (1.11 g, 3.11 mmol, 86%) as a white solid.

reactant | 1-naphthol | 3.62 mmol, 521 mg | C1(=CC=CC2=CC=CC=C12)O | C10H8O
reactant | potassium iodide | 0.36 mmol, 60 mg | [I-].[K+]
reactant | potassium carbonate | 5.42 mmol, 0.75 g | C([O-])([O-])=O.[K+].[K+]
reactant | N-methylpyrrolidinone | 10 mL | CN1C(CCC1)=O | C5H9NO
product | 5-[5-(naphthalen-1-yloxy)-pentyloxy]-quinoline | 3.11 mmol, 1.11 g, 86% | C1(=CC=CC2=CC=CC=C12)OCCCCCOC1=C2C=CC=NC2=CC=C1 | C24H23NO2
